US09023865B2
A solution of crude (R)-1-(3-(1-methyl-1H-pyrazol-3-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (36 mg, 0.060 mmol) in DCM (1 mL) was treated with TFA (0.2 mL) and triethylsilane (0.02 mL, 0.125 mmol). The mixture was stirred at room temperature for 5.5 h, evaporated in vacuo and purified on reversed phase HPLC to afford (R)-1-(3-(1-methyl-1H-pyrazol-3-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (15.7 mg, 0.033 mmol, 55%) as a white solid. MS ESI calcd. For C19H20N7O [M+H]+ 362, found 362. 1H NMR (600 MHz, DMSO-d6) δ 13.06 (s, 1H), 9.16 (s, 1H), 9.12 (s, 1H), 7.84-7.79 (m, 1H), 7.78 (d, J=2.2 Hz, 1H), 7.57 (s, 1H), 7.35-7.27 (m, 4H), 7.21 (ddd, J=8.7, 5.8, 2.6 Hz, 1H), 6.68 (d, J=2.2 Hz, 1H), 4.97-4.71 (m, 1H), 3.93 (s, 3H), 1.39 (d, J=7.0 Hz, 3H).

reactant | (R)-1-(3-(1-methyl-1H-pyrazol-3-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.060 mmol, 36 mg | CN1N=C(C=C1)C1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H33N7O
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.125 mmol, 0.02 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-(1-methyl-1H-pyrazol-3-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.033 mmol, 15.7 mg, 55% | CN1N=C(C=C1)C1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C19H19N7O
